US07038059B2
20.0 g (183.3 mmol) of 2-azabicyclo[2.2.1]hept-5-en-3-one, 8.8 g (274.7 mmol) of methanol, and 150 mL of toluene were put into a four-necked flask (300 mL volume) equipped with a hydrogen chloride introducing tube, a thermometer, and an exhaust tube. 6.7 g (183.8 mmol) of hydrogen chloride was introduced into the obtained mixture over a period of 2 hours through the hydrogen chloride introducing tube at room temperature. Following 1 hour of stirring, the precipitated crystals were filtered off with a glass filter. The obtained crystals were dried under reduced pressure to give 30.8 g (173.2 mmol) of cis-4-amino-2-cyclopentene-1-carboxylic acid methyl ester hydrochloride (that is, (1S*, 4R*)-4-amino-1-methoxycarbonyl-2-cyclopentene hydrochloride). The yield was 94.4%.

reactant | 2-azabicyclo[2.2.1]hept-5-en-3-one | 183.3 mmol, 20.0 g | C12NC(C(C=C1)C2)=O | C6H7NO
reactant | methanol | 274.7 mmol, 8.8 g | CO | CH4O
reactant | hydrogen chloride | 183.8 mmol, 6.7 g | Cl | ClH
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | cis-4-amino-2-cyclopentene-1-carboxylic acid methyl ester hydrochloride | 173.2 mmol, 30.8 g, yield was 94.4% | Cl.COC(=O)[C@@H]1C=C[C@@H](C1)N | InChI=1S/C7H11NO2.ClH/c1-10-7(9)5-2-3-6(8)4-5;/h2-3,5-6H,4,8H2,1H3;1H/t5-,6+;/m1./s1
